2175-02-13 10:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yo female admitted with underlying restrictive chest wall physiology
   and pHTN, admitted w/ hypercarbic resp failure in the setting of BiPAP
   noncompliance.
   24 Hour Events:
   no events
   History obtained from Patient
   Patient unable to provide history: Language barrier
   Allergies:
   Doxycycline
   Rash;
   Tetracycline
   Rash;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-2-13**] 06:01 AM
   Ranitidine (Prophylaxis) - [**2175-2-13**] 07:57 AM
   Other medications:
   MVI, vit D, CaHCO3, Synthroid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-2-13**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.6
   HR: 99 (97 - 118) bpm
   BP: 116/73(84) {84/60(66) - 121/78(88)} mmHg
   RR: 13 (13 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                    150 mL
                  PO:
                                                                    150 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    900 mL
                                                                    250 mL
   Urine:
                                                                    900 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -750 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.34/84/67/46/15
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, O/P clear
   Cardiovascular: (S1: Normal), (S2: No(t) Normal, Widely split ), tachy,
   no mrumur, + JVD to angle of mandible
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : R lower, R upper lung
   field, Absent : L side), R > L asymmetric expansion
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   268 K/uL
   109 mg/dL
   0.6 mg/dL
   46 mEq/L
   4.6 mEq/L
   7 mg/dL
   94 mEq/L
   142 mEq/L
   35.6 %
   3.9 K/uL
        [image002.jpg]
                             [**2175-2-13**]  02:02 AM
                             [**2175-2-13**]  05:45 AM
   WBC
   3.9
   Hct
   35.6
   Plt
   268
   Cr
   0.6
   TCO2
   47
   Glucose
   109
   Other labs: Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR- R effusion, atelectasis vs infiltrate at LL, ? upper lobe
   volume loss- upward displacement of hilar structures.
   Assessment and Plan
   44 yo female admitted with underlying restrictive chest wall physiology
   and pHTN, admitted w/ hypercarbic resp failure in the setting of BiPAP
   noncompliance.
   1. Acute on chronic hypercarbic resp failure- likely underlying
   hypoventilation exac by not getting BiPAP that she has been prescribed
   for OSA/hypooventi
   -tolerate BiPAP overnight w/ return of ABG to near baseline values
   -stable
   2. Hypoxemic resp failure- seemingly chronic as pt v comfortable w/ sig
   desaturations; multifact related to pHTN and hypoventilation
   -cont BiPAP, supp O2 to keep O2 sats 88-92
   -consider shunt processes; intracardiac given severe pHTN
   -would discuss pHTN workup and mgmt w/ outpt cardiologist and
   pulmonologist; check echo w/ bubble
   3. Tachycardia- stable per comparison to prior admisison and clinically
   euvolemic
   -recent TSH stable and therapeutic
   -minimize albuterol tx
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2175-2-12**] 05:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, had bipap and did well.  No new problems but remains
   hypoxic.
   97.1     P:  106    BP: 110/61   Oxygen Saturation:  94%  on Fio2 of .5
   General: Awake, alert NAD
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: No edema
   Labs: reviewed and as above
   Assessment:
   Hypoxia: Unclear the exact etiology but likely pulmonary hypertension
   as underlying etiology of progressive shortness of breath/hypoxia.  She
   had similar presentation about 1-2 weeks ago and CTA at that time was
   normal.  I think she warrants a right heart cath with testing for
   pulmonary htn and responsiveness.
   Plan:
   1)      ECHO with bubble study
   2)      Cardiology consult for right heart cath
   3)      Pulmonary Consult
   4)      Continue to wean oxygen as tolerated, bipap overnight
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2175-2-13**] 19:20 ------

2175-02-14 07:35:00 Physician Resident Progress Note
Chief Complaint: Hypercapnea
   Hypoxia
   24 Hour Events:
   --no R to L shunt on ECHO
   --plan to consult cards tomorrow to discuss need for R Heart Cath
   History obtained from Patient, Interpreter
   Allergies:
   History obtained from Patient, [**Name (NI) 11877**]
   Rash;
   Tetracycline
   Rash;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2175-2-13**] 07:57 AM
   Heparin Sodium (Prophylaxis) - [**2175-2-13**] 10:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-2-14**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 100 (94 - 111) bpm
   BP: 98/59(67) {84/57(66) - 120/76(86)} mmHg
   RR: 23 (13 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    450 mL
   Urine:
                                                                  1,400 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,400 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///49/
   Physical Examination
   General: Alert, oriented, no acute distress, slightly anxious,
   comfortable on BPAP
   Lungs: absent breath sounds on the L, R base rales
   CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   357 K/uL
   11.1 g/dL
   106 mg/dL
   0.8 mg/dL
   49 mEq/L
   5.2 mEq/L
   9 mg/dL
   93 mEq/L
   143 mEq/L
   38.0 %
   4.2 K/uL
        [image002.jpg]
                             [**2175-2-13**]  02:02 AM
                             [**2175-2-13**]  05:45 AM
                             [**2175-2-14**]  05:01 AM
   WBC
   3.9
   4.2
   Hct
   35.6
   38.0
   Plt
   268
   357
   Cr
   0.6
   0.8
   TCO2
   47
   Glucose
   109
   106
   Other labs: ALT / AST:27/33, Alk Phos / T Bili:56/0.3, Albumin:4.0
   g/dL, LDH:180 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   43-year-old woman with pulmonary hypertension s/p L pneumonectomy due
   to TB, also with history of OSA, presented with recurrent dyspnea.
   # Hypoxia: Likely related to pulmonary hypertension though unclear if
   this condition has progressed. Echo w/o shunting.
   --cardiology c/s today for possible right heart cath
   --O2 via NC as needed to keep sats >92%
   --cont BIPAP overnight
   # Sinus tachycardia: HR in the 100s-110s. Remains asymptomatic.  Per
   [**Name (NI) 1163**] pt has history of sinus tachycardia dating back to [**2170**].
   # GERD: Continue ranitidine.
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2175-2-12**] 05:47 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, had bipap for three hours but unable after that time because
   of anxiety.  She relates through translator that feels at baseline this
   morning in terms of her breathing
   97.1     P:  90s-100s    BP: 97/62  RR25 Oxygen Saturation:  94-98%  on
   4 liters (baseline oxygen)
   General: Awake, alert NAD
   Chest: No breath sounds on the left.  Clear on right
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: No edema
   Labs: reviewed and as above
 noted normal bubble ECHO in standpoint of
   shunt.
   Assessment:
   Hypoxia: Unclear the exact etiology
 the underlying pulmonary
   hypertension actually appeared less pronounced on current ECHO
   confounding the issue as yesterday I had presumed worsening pulmonary
   hypertension.  Other etiologies, such as restrictive cardiomyopathy
   leading to pulmonary edema are plausible and were suggested by
   pulmonary.  A right heart cath will help identify the diagnosis.
   Plan:
   1)      Cardiology consult for right heart cath
   2)      Pulmonary Consult Service following and will follow on [**Hospital1 **]
   3)      Continue to wean oxygen as tolerated, bipap overnight
   4)      To floor
   Time Spent:  25 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2175-2-14**] 05:48 PM ------

2175-02-15 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   [**2-14**]:
   -Per pt on 4L at home when she uses oxygen
   -Plan for RHC [**2-15**]
   -Plan to readdress ppx anticoagulation given PHTN prior to discharge
   -Cardiology scheduled RHC but did not formally consult
   -Due to bed shortage and patient's BiPAP requirements patient was not
   called out
   -BiPAP setting [**7-3**] with 1-6 L O2 for goal SpO2 88-92%. Tolerated BIPAP
   o/n
   Allergies:
   Doxycycline
   Rash;
   Tetracycline
   Rash;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2175-2-14**] 08:21 AM
   Heparin Sodium (Prophylaxis) - [**2175-2-14**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-2-15**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96
   HR: 97 (97 - 118) bpm
   BP: 100/63(72) {93/49(60) - 121/72(82)} mmHg
   RR: 21 (13 - 39) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                    550 mL
                  PO:
                                                                    550 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    350 mL
   Urine:
                                                                  1,650 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,100 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///49/
   Physical Examination
   General: Alert, oriented, no acute distress, slightly anxious,
   HEENT: Sclera anicteric, MMM, poor dentition, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: No breath sounds on L, minimal chest excursion on L, good air
   movement on R, no wheezing, occasional crackles on R base, mild
   respiratory effort at rest
   CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   310 K/uL
   10.4 g/dL
   100 mg/dL
   0.5 mg/dL
   49 mEq/L
   4.7 mEq/L
   9 mg/dL
   90 mEq/L
   141 mEq/L
   36.2 %
   4.9 K/uL
        [image002.jpg]
                             [**2175-2-13**]  02:02 AM
                             [**2175-2-13**]  05:45 AM
                             [**2175-2-14**]  05:01 AM
                             [**2175-2-15**]  04:11 AM
   WBC
   3.9
   4.2
   4.9
   Hct
   35.6
   38.0
   36.2
   Plt
   [**Telephone/Fax (3) 11889**]
   Cr
   0.6
   0.8
   0.5
   TCO2
   47
   Glucose
   109
   106
   100
   Other labs: PT / PTT / INR:12.3//1.0, ALT / AST:27/33, Alk Phos / T
   Bili:56/0.3, Albumin:4.0 g/dL, LDH:180 IU/L, Ca++:9.0 mg/dL, Mg++:2.1
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 ANXIETY
 HYPOXEMIA
 DIARRHEA
   43-year-old woman with pulmonary hypertension s/p L pneumonectomy due
   to TB, also with history of OSA, presented with recurrent dyspnea.
   # Hypoxia: Likely related to pulmonary hypertension though unclear if
   this condition has progressed. Also unclear as pHTN would not explain
   pulmonary edema and effusions.  Echo w/o shunting.  Restrictive
   pericardial disease remains on the differential.  Patient denies any
   further symptoms.
   -- right heart cath today
   --O2 via NC as needed to keep sats >92%
   --cont BIPAP overnight setting [**7-3**] with 1-6 L/min O2 for goal SpO2
   88-92%
   --counseled extensively on need for compliance of BiPAP at home
   --will readdress indication for anticoagulation given pHTN
will likely
   defer given concern for compliance. Will let outpt pulmonologist f/u
   this issue
   --started ativan 0.5 mg qhs for BiPAP induced anxiety
   # Sinus tachycardia: HR in the 100s-110s. Remains asymptomatic.  Per
   [**Name (NI) 1163**] pt has history of sinus tachycardia dating back to [**2170**].
   # GERD: Continue ranitidine.
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2175-2-12**] 05:47 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: called out to floor
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, tolerated bipap for 4 hours
   97.7     P:  97   BP: 100/63   RR 21 Oxygen Saturation:  94-98%  on 4
   liters (baseline oxygen)
   General: Awake, alert NAD
   Chest: No breath sounds on the left.  Clear on right
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: No edema
   Labs: reviewed and as above
   Assessment:
   1)      Hypoxia
   2)      Pulmonary Hypertension
   Plan:
   1)      Right heart cath today
   2)      Pulmonary Following
   3)      Continue oxygen, bipap at night
   4)      Can go to floor
   Addendum: Right heart cath reveals pulmonary hypertension with normal
   wedge pressure and no evidence of constrictive or restrictive
   physiology.  Pulmonary hypertension improves with oxygen therapy.
   Still unclear exactly what is driving her recent acute episodes and the
   ground glass opacities on CT though it is possible that she is taking
   off oxygen and having acute on chronic increases in pulmonary pressures
   that put her into distress.  Pulmonary service following and patient
   will go to the floor today
   Time Spent:  30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2175-2-15**] 01:03 PM ------

2175-02-16 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2175-2-15**]:
   -underwent RHC
   -sildenafil started 20mg po tid for pulm HTN
   -AVNRT with HR of 150 and SBP 85, mild lightheadedness, x 5 minutes,
   resolved with valsalva
   Allergies:
   Doxycycline
   Rash;
   Tetracycline
   Rash;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2175-2-15**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-2-16**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 101 (98 - 150) bpm
   BP: 96/58(68) {80/43(53) - 125/96(102)} mmHg
   RR: 16 (15 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
                  Total In:
                                                                  1,076 mL
                  PO:
                                                                    650 mL
                  TF:
   IVF:
                                                                    426 mL
   Blood products:
   Total out:
                                                                  1,775 mL
                                                                    300 mL
   Urine:
                                                                  1,775 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -699 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   General: somnolent but responsive , no acute distress,
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs:No bs on L, no wheezes, rales, ronchi
   CV:  tachycardic regular rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   282 K/uL
   10.2 g/dL
   101 mg/dL
   0.6 mg/dL
   49 mEq/L
   5.0 mEq/L
   7 mg/dL
   90 mEq/L
   143 mEq/L
   35.1 %
   4.2 K/uL
        [image002.jpg]
                             [**2175-2-13**]  02:02 AM
                             [**2175-2-13**]  05:45 AM
                             [**2175-2-14**]  05:01 AM
                             [**2175-2-15**]  04:11 AM
                             [**2175-2-16**]  03:16 AM
   WBC
   3.9
   4.2
   4.9
   4.2
   Hct
   35.6
   38.0
   36.2
   35.1
   Plt
   [**Telephone/Fax (3) 11899**]82
   Cr
   0.6
   0.8
   0.5
   0.6
   TCO2
   47
   Glucose
   109
   106
   100
   101
   Other labs: PT / PTT / INR:12.3//1.0, ALT / AST:27/33, Alk Phos / T
   Bili:56/0.3, Albumin:4.0 g/dL, LDH:180 IU/L, Ca++:9.0 mg/dL, Mg++:2.1
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   43-year-old woman with pulmonary hypertension s/p L pneumonectomy due
   to TB, also with history of OSA, presented with recurrent dyspnea.
   # Hypoxia/Hypercarbia: Likely related to pulmonary hypertension though
   unclear if this condition has progressed. Also unclear as pHTN would
   not explain pulmonary edema and effusions.  Echo w/o shunting.
   Restrictive pericardial disease ruled out from catheterization and
   imaging.  Pulmonary pressures did not suggest current CHF
   exacerbation.  Consider increased somnolence this morning  possibly due
   to increased oxygenation with sildenifil and decreased respiratory
   drive.
   -- decrease supplemental oxygenation to 2L  NC as needed to keep sats
   >92%
   -- continue sildenifil tid
   --cont BIPAP overnight setting [**7-3**] with 1-6 L/min O2 for goal SpO2
   88-92%
   --counseled extensively on need for compliance of BiPAP at home
   --will readdress indication for anticoagulation given pHTN
will likely
   defer given concern for compliance. Will let outpt pulmonologist f/u
   this issue
   --started ativan 0.5 mg qhs for BiPAP induced anxiety
   --discuss plan with Dr. [**Last Name (STitle) **]
   # Sinus tachycardia: HR in the 100s-110s. Remains asymptomatic.  Per
   [**Name (NI) 1163**] pt has history of sinus tachycardia dating back to [**2170**].
   # AVNRT: Symptomatic with decreased blood pressure and lightheadedness.
   Resolved with valsalva.   Start metoprolol 25 mg [**Hospital1 **] given symptoms.
   - contact Dr. [**Last Name (STitle) 11901**] regarding treatment plan
   - discharge with event monitor
   # GERD: Continue ranitidine.
   ACCESS:
   CODE: FULL
   DISPO: Likely floor tomorrow
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, started on sidenafil and tolerated but now unresponsive
   97.5     P:  104   BP: 96/58   RR 16 Oxygen Saturation:  100%  on 4
   liters (baseline oxygen)
   General: Unresponsive
   Chest: No breath sounds on the left.  Clear on right
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: No edema
   Labs: reviewed and as above
   Assessment:
   1)      Unresponsiveness
   2)      Pulmonary Hypertension
   3)      Tachyarrythmia (AVNRT)
   4)      GERD
   Plan:
   1)      Check ABG to evaluate pCO2 given significant somnolence
   2)      Decrease oxygen for moment as I suspect that the sidenafil has
   improved oxygenation leading to oxygen causing pCO2 retention
   3)      Continue bipap at night
   Addendum: Very hypercarbic likely as result of improved oxygenation
   leading to some hypercarbia when saturing at 100% throughout the night
   likely because of improved status from sidenafil.  Hypercarbia improved
   with brief NIV (not tolerated) plus decreased oxygen provision.
   Time Spent:  30 minutes, pt critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2175-2-17**] 05:13 AM ------

2175-02-17 06:50:00 Physician Resident Progress Note
Chief Complaint: hypercarbia/hypoxia
   24 Hour Events:
   --somnolent around 1100: ABG--7.22/132/57 started BIPAP and gas
   improved to 7.31/115/91/61. Patient awake and alert at this point.
   History obtained from Patient
   Allergies:
   History obtained from PatientDoxycycline
   Rash;
   Tetracycline
   Rash;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-2-16**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-2-17**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (96.9
   HR: 106 (96 - 111) bpm
   BP: 108/57(68) {90/50(62) - 125/71(83)} mmHg
   RR: 14 (14 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
                  Total In:
                                                                    160 mL
                  PO:
                                                                    160 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    700 mL
   Urine:
                                                                  1,750 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,590 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.31/115/91/48/24
   Physical Examination
   Labs / Radiology
   285 K/uL
   10.4 g/dL
   92 mg/dL
   0.6 mg/dL
   48 mEq/L
   4.2 mEq/L
   8 mg/dL
   90 mEq/L
   140 mEq/L
   34.8 %
   4.3 K/uL
        [image002.jpg]
                             [**2175-2-13**]  02:02 AM
                             [**2175-2-13**]  05:45 AM
                             [**2175-2-14**]  05:01 AM
                             [**2175-2-15**]  04:11 AM
                             [**2175-2-16**]  03:16 AM
                             [**2175-2-16**]  10:58 AM
                             [**2175-2-16**]  12:07 PM
                             [**2175-2-16**]  02:34 PM
                             [**2175-2-17**]  05:02 AM
   WBC
   3.9
   4.2
   4.9
   4.2
   4.3
   Hct
   35.6
   38.0
   36.2
   35.1
   34.8
   Plt
   [**Telephone/Fax (3) 11899**]82
   285
   Cr
   0.6
   0.8
   0.5
   0.6
   0.6
   TCO2
   47
   57
   60
   61
   Glucose
   109
   106
   100
   101
   92
   Other labs: PT / PTT / INR:11.2/28.5/0.9, ALT / AST:27/33, Alk Phos / T
   Bili:56/0.3, Albumin:4.0 g/dL, LDH:180 IU/L, Ca++:8.9 mg/dL, Mg++:2.0
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   43-year-old woman with pulmonary hypertension s/p L pneumonectomy due
   to TB, also with history of OSA, presented with recurrent dyspnea.
   .
   # Hypercarbia: pCO2 as high as 132 yesterday. [**Month (only) 60**] have been related to
   improved oxygenation and subsequent reduced resp drive.Improved with
   BIPAP. Baseline likely around 100.
   -cont BIPAP qHS
   .
   # Pulmonary Hypertension: Severe pulm htn on R heart cath.
   -- increase sildenifi to 40l tid
   --cont BIPAP overnight setting [**9-2**]
   --counseled extensively on need for compliance of BiPAP at home
   .
    #Sinus tachycardia: No further episodes of AVNRT.
   -c/s  cardiologist regarding further management of AVNRT
   .
   # GERD: Continue ranitidine.
   # Dispo: PT c/s. Schedule family mtg to discuss placment.
   ICU Care
   Nutrition:
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2175-2-12**] 05:47 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree with
   the assessment and plan with the following modifications/emphasis:
   Overnight, no new problems
   T 37  P 106  BP 108/57  RR 14  Sat 98%
   Gen: Awake, alert NAD
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: No edema
   Assessment:
   1)       Pulmonary Hypertension
   2)       Hypercarbia
   3)       Hypoxia
   Plan:
   Discussed care plan with Dr. [**Last Name (STitle) 8588**] and decision made to send patient
   to rehab now that on stable dose of Viagra and at baseline (or better)
   pulmonary status, and will have plans to continue further outpatient
   evaluation and therapy.  Physical therapy will see patient and she will
   be transferred when place is available.
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2175-2-17**] 07:53 PM ------

2175-02-18 10:34:00 Physician Attending Progress Note
Chief Complaint: hypoxia, hypercarbia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44F with post-TB pneumonectomy, c/b pulmonary HTN and hypoxia, presents
   with recurrent respiratory failure and hypercarbia, now improved with
   supplemental O2 and autodiuresis:
   24 Hour Events:
   - no hypotension
   - family meeting yesterday; plan for discharge to rehab today
   - 4hr on bipap with 0.25 mg ativan
   History obtained from Patient
   Allergies:
   Doxycycline
   Rash;
   Tetracycline
   Rash;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-2-17**] 04:40 PM
   Ranitidine (Prophylaxis) - [**2175-2-17**] 08:00 PM
   Other medications:
   mvi, vitd, cacarb, zantac, levothyrox, sqh, viagra
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: Dyspnea, No(t) Tachypnea
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2175-2-18**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 110 (96 - 115) bpm
   BP: 104/59(68) {93/54(64) - 132/87(98)} mmHg
   RR: 19 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
                  Total In:
                                                                  1,280 mL
                  PO:
                                                                  1,280 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    500 mL
   Urine:
                                                                  1,900 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -620 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   Physical Examination
   Awake, alert, interactive
   Decreased bs on L side; clear on R side
   Heart tachy regular
   Abd soft ntnd
   Extr warm, no edema
   Labs / Radiology
   10.4 g/dL
   285 K/uL
   92 mg/dL
   0.6 mg/dL
   48 mEq/L
   4.2 mEq/L
   8 mg/dL
   90 mEq/L
   140 mEq/L
   34.8 %
   4.3 K/uL
        [image002.jpg]
                             [**2175-2-13**]  02:02 AM
                             [**2175-2-13**]  05:45 AM
                             [**2175-2-14**]  05:01 AM
                             [**2175-2-15**]  04:11 AM
                             [**2175-2-16**]  03:16 AM
                             [**2175-2-16**]  10:58 AM
                             [**2175-2-16**]  12:07 PM
                             [**2175-2-16**]  02:34 PM
                             [**2175-2-17**]  05:02 AM
   WBC
   3.9
   4.2
   4.9
   4.2
   4.3
   Hct
   35.6
   38.0
   36.2
   35.1
   34.8
   Plt
   [**Telephone/Fax (3) 11899**]82
   285
   Cr
   0.6
   0.8
   0.5
   0.6
   0.6
   TCO2
   47
   57
   60
   61
   Glucose
   109
   106
   100
   101
   92
   Other labs: PT / PTT / INR:11.2/28.5/0.9, ALT / AST:27/33, Alk Phos / T
   Bili:56/0.3, Albumin:4.0 g/dL, LDH:180 IU/L, Ca++:8.9 mg/dL, Mg++:2.0
   mg/dL, PO4:4.2 mg/dL
   Imaging: cxr: no change
   Assessment and Plan
   44F with post-TB pneumonectomy, c/b pulmonary HTN and hypoxia, presents
   with recurrent respiratory failure and hypercarbia, now improved with
   supplemental O2 and autodiuresis, and tolerating sildenafil, as well as
   bipap at night.
   Pt is going to rehab this afternoon. She is doing well, and she has
   follow-up with Dr [**Last Name (STitle) **] for treatment of pulmonary htn. No
   indication for diuretic at this time but will be considered as
   outpatient.
   ICU Care
   Nutrition: regular
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2175-2-12**] 05:47 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition : Transfer to rehab / long term care facility
   Total time spent: 35 minutes